US06303556B1
To a glass autoclave liner is added 249 g of 5,7-dimethyl-3,5,9-decatrien-2-one, 2.2 g of 5% rutheniumon carbon and 200 ml of methanol. The glass liner is sealed inside a 3 L, stainless steel, rocking autoclave and the autoclave purged once with 250 psig N2, once with 250 psig H2 and then charged with 500 psig H2. With mixing, the reaction mixture is heated. At about 75° C., the reaction initiates and begins consuming H2 and exotherms to 170° C. In 10 minutes, the temperature has dropped to 115-120° C. and the pressure dropped to 270 psig. The autoclave is boosted to 1000 psig with H2, mixed at 110-115° C. for an additional 7 hours and 15 minutes then cooled to 30° C. The reaction mixture is removed from autoclave, filtered to remove catalyst and concentrated by evaporation of methanol under vacuum to yield 225.8 g of 5,7-dimethyl-2-decanol.

reactant | 5,7-dimethyl-3,5,9-decatrien-2-one | 249 g | CC(C=CC(C)=O)=CC(CC=C)C | C12H18O
catalyst | rutheniumon carbon | 2.2 g | [Ru] | Ru
solvent | methanol | 200 ml | CO | CH4O
product | 5,7-dimethyl-2-decanol | 225.8 g | CC(CCC(C)O)CC(CCC)C | C12H26O
